US05037883
PREPARATION OF POLYMER WITH DAUNOMYCIN AND FREE REACTIVE GROUPS
To a solution of 0.31 g of polymer precursor (9) (containing 1.35×10-4 mol of ONp groups) in 1.2 ml DMSO was added 0.028 g (5.1×10-5 mol) of daunomycin hydrochloride in 0.1 ml DMSO and 0.0052 g (5×10-5 mol) of triethylamine. The reaction mixture was stirred at room temperature for 60 minutes and then poured into 400 ml of acetone: ether (3:1) mixture to precipitate the polymer. The polymer contained 2.5 mol % of side-chains terminating in daunomycin and 4.3 mol % of side-chains terminating in unreacted ONp groups.

reactant | daunomycin hydrochloride | 5.1×10-5 mol, 0.028 g | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC3=C(C4=C(C(=C23)O)C(=O)C5=C(C4=O)C=CC=C5OC)O)(C(=O)C)O)N)O.Cl
reactant | triethylamine | 5×10-5 mol, 0.0052 g | C(C)N(CC)CC | C6H15N
reactant | acetone ether | 400 ml | CC(=O)C.CCOCC
solvent | DMSO | 1.2 ml | CS(=O)C | C2H6OS
solvent | DMSO | 0.1 ml | CS(=O)C | C2H6OS
product | DAUNOMYCIN | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC3=C(C4=C(C(=C23)O)C(=O)C5=C(C4=O)C=CC=C5OC)O)(C(=O)C)O)N)O | C27H29NO10
